US07495006B2
9-[cis-3-(Hydroxyethyl)cyclobutyl]adenine
In a 10 mL flask with 9-[cis-3-(benzyloxyethyl)cyclobutyl]adenine (0.24 g, 0.74 mmol) inside, dry CH2Cl2 5 mL was added. After cooling to −78° C., BCl3 (1.0 M in CH2Cl2, 2.2 mL, 2.22 mmol) was added drop by drop. This was allowed to warm up to 0° C. and after 6 hr, the reaction was quenched by adding 7 N NH3 in MeOH (2.6 mL, 18.3 mmol) and the solvent was removed by rotovap. The crude material was applied directly to silica gel flash chromatography to give the desired product 0.1 g (58%). 1H NMR (CD3OD, 300 MHz): δ 1.75-1.84 (m, 2H), 2.27-2.44 (m, 3H), 2.71-2.80 (m, 2H), 3.56-3.62 (m, 2H), 4.82-4.95 (m, 1H), 8.22 (s, 1H), 8.30 (s, 1H). MS (FAB): expected for C11H15N5O (M+H)+ 234.27. Found 234.13489. IR (neat) νmax 3327, 3184, 2929, 1648, 1600, 1574, 1477, 1416, 1333, 1305, 1248, 1045, 798, 720, 648.

reactant | 9-[cis-3-(benzyloxyethyl)cyclobutyl]adenine | 0.74 mmol, 0.24 g | C(C1=CC=CC=C1)OCC[C@H]1C[C@H](C1)N1C2=NC=NC(=C2N=C1)N | C18H21N5O
reactant | BCl3 | 2.22 mmol, 1.0 M, 2.2 mL | B(Cl)(Cl)Cl | BCl3
reactant | NH3 | 7 N | N | H3N
reactant | MeOH | 18.3 mmol, 2.6 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 9-[cis-3-(Hydroxyethyl)cyclobutyl]adenine | 0.1 g, 58% | OCC[C@H]1C[C@H](C1)N1C2=NC=NC(=C2N=C1)N | C11H15N5O
